US06159902
Osmium tetroxide (3 drops of 5%) in toluene was added to a solution of 1-(cyclohex-2-enyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol (6.9 g) and sodium periodate (6.0 g) in a mixture of tetrahydrofuran and water at 20° C. After stirring for 5 hours, ether was added and the organic phase washed (brine), dried (magnesium sulphate) and evaporated. The residue was dissolved in ether, then sodium hydoxide (20% aqueous solution) added and the mixture stirred for 0.5 hour at 20° C. The organic phase was washed (brine), dried (magnesium sulphate), evaporated and the residue purified by silica gel column chromatography, eluting with n-hexane/ethyl acetate (1:1) to give 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-1-(3-formyl-cyclopent-2-enyl)-2-methylpropan-1-ol (0.55 g), NMR: 1.51(s,3H), 1.57(s,3H), 1.85(1H), 1.93(s,3H), 2.15(1H), 2.40(1H), 2.65(1H), 2.98(1H), 3.53(dd,1H), 5.21(d,1H), 5.35(d,3H), 5.49(d,1H), 6.92(s,1H), 7.25-7.43(5H), 9.74(s,1H).

reactant | 1-(cyclohex-2-enyl)-2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-2-methylpropan-1-ol | 6.9 g | C1(C=CCCC1)C(C(C)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C)O | C21H27NO3
reactant | sodium periodate | 6.0 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ether | CCOCC | C4H10O
catalyst | Osmium tetroxide | 3 drops | [Os](=O)(=O)(=O)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2,3-dihydro-6-methyl-4-oxo-5-phenyl-4H-1,3-oxazin-3-yl)-1-(3-formyl-cyclopent-2-enyl)-2-methylpropan-1-ol | 0.55 g | CC1=C(C(N(CO1)C(C(O)C1C=C(CC1)C=O)(C)C)=O)C1=CC=CC=C1 | C21H25NO4
